US06498165B1
Step D: 2-[(S)-1-Phenylethylamino]-4-[6-methoxycarbonyl-benzimidazol-1-yl]pyrimidine
To a solution of 2-[(S)-1-phenylethylamino]-4-[6-carboxy-benzimidazol-1-yl]pyrimidine in 0.2 mL of benzene and 0.1 mL of methanol was added 0.015 mL of (trimethylsilyl)diazomethane (2 M in hexanes). The solution was stirred for 30 min at room temperature then concentrated. The product was purified by chromatography to afford the title compound. Partial 1H NMR (500 MHz CD3OD): δ 8.9 (s, 1H); 8.63 (br, 1H); 8.42 (d J=5.0 Hz, 1H); 8.09 (d J=11 Hz, 1H); 7.87 (d J=11 Hz, 1H); 6.83 (d J=5.0 Hz, 1H); 5.29 m, 1H); 3.98 (s, 3H); 1.64 (d J=7.0 Hz, 3H).

reactant | 2-[(S)-1-phenylethylamino]-4-[6-carboxy-benzimidazol-1-yl]pyrimidine | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=C(C=C2)C(=O)O | C20H17N5O2
reactant | (trimethylsilyl)diazomethane | 2 M, 0.015 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | benzene | 0.2 mL | C1=CC=CC=C1 | C6H6
solvent | methanol | 0.1 mL | CO | CH4O
product | 2-[(S)-1-Phenylethylamino]-4-[6-methoxycarbonyl-benzimidazol-1-yl]pyrimidine | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=C(C=C2)C(=O)OC | C21H19N5O2
